US08865704B2
trans-4-[(2-Nitro-5-trifluoromethyl-phenylamino)-methyl]-cyclohexane carboxylic acid methyl ester
K2CO3 (1.6 g, 11.7 mmol), 2-Fluoro-1-nitro-4-trifluoromethyl-benzene (1.22 g, 5.8 mmol) and trans-4-Aminomethyl-cyclohexanecarboxylic acid methyl ester (1.00 g, 5.84 mmol) were dissolved in DMF (10 ml). The mixture was stirred at 50° C. overnight. The solvent was removed under reduced pressure and the crude product dissolved in DCM (15 ml) and washed with water (20 ml) and then with a solution of citric acid (1M, 5 ml). The organic solution was dried over Na2SO4, filtered and the solvent removed by evaporation to give solid material. This was washed with cyclohexane and then with isopropyl ether and purified by silica column using DCM/cyclo hexane (1:1) as eluent. 1.8 g (yield 86%) of the title compound were isolated.

reactant | K2CO3 | 11.7 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Fluoro-1-nitro-4-trifluoromethyl-benzene | 5.8 mmol, 1.22 g | FC1=C(C=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | trans-4-Aminomethyl-cyclohexanecarboxylic acid methyl ester | 5.84 mmol, 1.00 g | COC(=O)[C@@H]1CC[C@H](CC1)CN | C9H17NO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | trans-4-[(2-Nitro-5-trifluoromethyl-phenylamino)-methyl]-cyclohexane carboxylic acid methyl ester | 1.8 g, yield 86% | COC(=O)[C@@H]1CC[C@H](CC1)CNC1=C(C=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C16H19F3N2O4
